US05489593
1-[5-(1-Methylethylamino)-4-pyrimidinyl]piperazine (II)
Trifluoroacetic acid (5 ml) is added to a solution of 1-[1,1-dimethylethoxy-carbonyl]-4-[5-(1-methylethylamino)-4-pyrimidinyl]piperazine (PREPARATION 29, 0.37 g) in dichloromethane (20 ml) at - 78°. The reaction is allowed to warm to 20°-25° overnight, and then diluted with excess aqueous sodium hydroxide solution (10%). The phases are separated. The aqueous phase is extracted twice again with dichloromethane. The combined organic extracts are washed with saline, dried over sodium sulfate, and concentrated under reduced pressure to give the title compound, NMR (CDCl3) 1.25, 1.7, 3.01, 3.21, 3.45, 3.5, 7.86 and 8.34 δ.

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-[1,1-dimethylethoxy-carbonyl]-4-[5-(1-methylethylamino)-4-pyrimidinyl]piperazine | 0.37 g | CC(C)(OC(=O)N1CCN(CC1)C1=NC=NC=C1NC(C)C)C | C16H27N5O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-[5-(1-Methylethylamino)-4-pyrimidinyl]piperazine | CC(C)NC=1C(=NC=NC1)N1CCNCC1 | C11H19N5
